US08207164B2
i) [5-(5-Azido-2-fluoro-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
To a solution of 7.27 g (17.18 mmol) [5-(5-bromo-2-fluoro-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester and 2.443 g (17.18 mmol) trans-N,N′-dimethylcyclohexane-1,2-diamine in 237 ml EtOH was added a solution of 8.93 g (137 mmol) sodium azide and 1.361 g (6.87 mmol) sodium-ascorbate in 102 ml water. The mixture was degassed and brought under nitrogen atmosphere. CuI (1.309 g, 6.87 mmol) was added and the mixture was heated at 70° C. The initially formed suspension turned into a homogeneous blue solution. The mixture was cooled to it, diluted with water and TBME. The organic phase was washed with brine and dried with MgSO4.H2O. The crude product was purified by chromatography on silica gel (hexane/5-8% TBME) to give the desired product as a colorless solid.

reactant | [5-(5-bromo-2-fluoro-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 17.18 mmol, 7.27 g | C(C)(C)(C)OC(NC=1COCC(N1)(C(F)F)C1=C(C=CC(=C1)Br)F)=O | C16H18BrF3N2O3
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 17.18 mmol, 2.443 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | sodium azide | 137 mmol, 8.93 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium-ascorbate | 6.87 mmol, 1.361 g | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | EtOH | 237 ml | CCO | C2H6O
solvent | water | 102 ml | O | H2O
solvent | TBME | CC(C)(C)OC | C5H12O
catalyst | CuI | 6.87 mmol, 1.309 g | [Cu]I
product | [5-(5-Azido-2-fluoro-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C(F)F)C1=C(C=CC(=C1)N=[N+]=[N-])F)=O | C16H18F3N5O3
